* C:\Users\ohvic\Documents\ITBA\ASSD-2020-G4\TP1 - Muestreo\Filtro LP\SPICE\LPRauch.asc
V1 Vin 0 AC 1
XX1 Vin N001 lprauch1
XX2 N001 N002 lprauch2
XX3 N002 N003 lprauch3
XX4 N003 Vout lprauch4

* block symbol definitions
.subckt lprauch1 Vin Vout
XU1 0 N002 +Vcc -Vcc Vout TL082
V2 +Vcc 0 +15
V3 -Vcc 0 -15
R1 N001 Vin 1.1k
R2 N002 N001 2.05k
R3 N001 Vout 1.1k
C1 N001 0 43n
C2 Vout N002 100p
.ends lprauch1

.subckt lprauch2 Vin Vout
XU1 0 N002 +Vcc -Vcc Vout TL082
V2 +Vcc 0 +15
V3 -Vcc 0 -15
R1 N001 Vin 1k
R2 N002 N001 9.25k
R3 N001 Vout 1k
C1 N001 0 13.9n
C2 Vout N002 100p
.ends lprauch2

.subckt lprauch3 Vin Vout
XU1 0 N002 +Vcc -Vcc Vout TL082
V2 +Vcc 0 +15
V3 -Vcc 0 -15
R1 N001 Vin 1k
R2 N002 N001 25.5k
R3 N001 Vout 1k
C1 N001 0 8.77n
C2 Vout N002 100p
.ends lprauch3

.subckt lprauch4 Vin Vout
XU1 0 N002 +Vcc -Vcc Vout TL082
V2 +Vcc 0 +15
V3 -Vcc 0 -15
R1 N001 Vin 1k
R2 N002 N001 59.9k
R3 N001 Vout 1k
C1 N001 0 7.10n
C2 Vout N002 100p
.ends lprauch4

.ac dec 100 10k 100k
.lib C:\Users\ohvic\Downloads\TL082.301
.backanno
.end
